US04186205
A solution of 46.5 g (0.19 mol) of boron tribromide in about 240 ml of dry methylene chloride was added dropwise with stirring over a 90 minute period to a solution of 35.0 g (0.11 mol) of 2,3-di(4-methoxyphenyl)-6,7-dihydro-5H-pyrrolo[1,2-a]imidazole in 600 ml of dry methylene chloride maintained at -75° under a nitrogen atmosphere. The solution was then decanted and the remaining solid material was slurried with methylene chloride and water, collected by filtration and dried to give 2,3-di-(4-hydroxyphenyl)-6,7-dihydro-5H-pyrrolo[1,2-a]imidazole hydrobromide.

reactant | boron tribromide | 0.19 mol, 46.5 g | B(Br)(Br)Br | BBr3
reactant | 2,3-di(4-methoxyphenyl)-6,7-dihydro-5H-pyrrolo[1,2-a]imidazole | 0.11 mol, 35.0 g | COC1=CC=C(C=C1)C=1N=C2N(C1C1=CC=C(C=C1)OC)CCC2 | C20H20N2O2
solvent | methylene chloride | about 240 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
product | 2,3-di-(4-hydroxyphenyl)-6,7-dihydro-5H-pyrrolo[1,2-a]imidazole hydrobromide | Br.OC1=CC=C(C=C1)C=1N=C2N(C1C1=CC=C(C=C1)O)CCC2 | InChI=1S/C18H16N2O2.BrH/c21-14-7-3-12(4-8-14)17-18(13-5-9-15(22)10-6-13)20-11-1-2-16(20)19-17;/h3-10,21-22H,1-2,11H2;1H
